data/mechanism_extracts/OrgLett/10.1021_acs.orglett.1c03461.json
{"doi": "10.1021_acs.orglett.1c03461", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical phenylboronic-acid-promoted sulfuration-formyloxylation of styrenes with thiophenols in DMF to give beta-formyloxy sulfides, with downstream Selectfluor-mediated oxidation-olefination to (E)-vinyl sulfones", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic oxidation: thiophenol is oxidized at the anode (easier oxidation by CV) to a thiyl radical that adds to styrene; the resulting benzylic radical is further oxidized at the anode to a benzylic carbocation; protons are reduced to H2 at the cathode", "key_intermediates": [{"name": "thiyl radical (PhS•) in equilibrium with disulfide PhSSPh", "smiles": "[S]c1ccccc1", "role": "reactive"}, {"name": "benzyl radical I from thiyl addition to styrene", "smiles": null, "role": "reactive"}, {"name": "benzyl carbocation II (alpha-thio benzyl cation)", "smiles": null, "role": "reactive"}, {"name": "iminium intermediate III from DMF addition to cation II", "smiles": null, "role": "transient"}, {"name": "PhB(OH)(NMe2) byproduct IV (scavenges dimethylamine/water)", "smiles": null, "role": "off_pathway"}, {"name": "beta-formyloxy sulfide 3a (product of hydrolysis of III)", "smiles": null, "role": "reactive"}, {"name": "fluorosulfonium salt I-1 (Selectfluor + sulfide 3a)", "smiles": null, "role": "transient"}, {"name": "ammonium salt I-2 (detected by ESI-MS/HRMS)", "smiles": null, "role": "transient"}, {"name": "alpha-hydroxy sulfurane I-3", "smiles": null, "role": "transient"}, {"name": "sulfoxide I-4", "smiles": null, "role": "reactive"}, {"name": "fluorosulfoxonium I-5 / hydroxysulfurane I-6 / sulfone I-7", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, PhSH undergoes 1e- oxidation to PhS•, which adds to styrene to give a benzylic radical; a second anodic 1e- oxidation furnishes a benzylic carbocation that is trapped by DMF to form an iminium, hydrolyzed (by H2O generated in situ from PhB(OH)2) to the beta-formyloxy sulfide; protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3n not formed (0%); TEMPO-SAr adduct 3n' detected by ESI-MS, supporting thiyl-radical intermediate"}, {"name": "H2O (2 equiv added)", "smiles": "O", "purpose": "other", "observation": "Gave 3a in 68% with small amount of beta-hydroxy sulfide 5a (6%), indicating excess water is detrimental and supporting in situ water generation via PhB(OH)2"}, {"name": "Hu's conditions (HCO2H/CuCl/Bu4NPF6)", "smiles": null, "purpose": "other", "observation": "Only trace 3a and 26% hydroxylation 5a; conditions not applicable for the sulfuration-formyloxylation"}, {"name": "Selectfluor / HF / HCO2H (on sulfoxide 8a)", "smiles": null, "purpose": "intermediate_trap", "observation": "No vinyl sulfone 4g formed (0%), ruling out simple acid-mediated elimination"}, {"name": "DABCO or CsF (on sulfoxide 8a)", "smiles": null, "purpose": "intermediate_trap", "observation": "Near-quantitative conversion of 8a to vinyl sulfone 4g (>98%), supporting an E2-type elimination in the olefination step"}, {"name": "Cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Thiophenol is much more easily oxidized than styrene; two one-electron oxidation events observed, consistent with sequential anodic oxidations"}, {"name": "ESI-MS detection of I-2 and byproduct IV", "smiles": null, "purpose": "intermediate_trap", "observation": "Mass-spec detection of ammonium intermediate I-2 and PhB(OH)(NMe2) byproduct IV supports proposed cycle"}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors favor a stepwise radical/cation (anodic two-step oxidation) pathway: thiyl radical addition then anodic oxidation to a benzyl cation trapped by DMF (iminium III), hydrolyzed to product. PhB(OH)2 acts as a Lewis-acid additive that removes excess Me2NH/H2O (forming byproduct IV) and provides in situ water for iminium hydrolysis. Alternative: direct nucleophilic addition/elimination between iminium III and PhB(OH)2 to deliver the formate group. For the downstream Selectfluor oxidation-olefination of 3a to vinyl sulfone 4a, an E2-type elimination from sulfone I-7 is invoked (supported by DABCO/CsF base-promoted elimination of 8a)."}
